US05563162
To a suspension of 2,3-diaminophenol (2.93 g) in 2M aqueous acetic acid solution (47 ml) and 4M aqueous sodium acetate solution (29 ml) was added 40% aqueous pyruvic aldehyde solution (3.79 ml) at 60° C. The reaction mixture was stirred at 60° C. for 40 minutes. After cooling the reaction mixture was adjusted to pH 8 with saturated sodium hydrogen carbonate and extracted with dichloromethane (50 ml) twice. The organic layer was washed with saturated sodium hydrogen carbonate, water and brine. After dried over anhydrous magnesium sulfate, the solution was evaporated in vacuo. The residue was purified by flash column chromatography (silica gel 450 ml) eluting with n-hexane/ethyl acetate (5/1, V/V) to give 8-hydroxy-2-methylquinoxaline (the less polar product) as crystals and with n-hexane/ethyl acetate (3/1, V/V) to give 8-hydroxy-3-methylquinoxaline (the more polar product) as crystals. The former was washed with n-hexane to afford pale yellow crystals (1.27 g). The latter was washed with isopropyl ether to afford pale yellow crystals (1.30 g).

reactant | 2,3-diaminophenol | 2.93 g | NC1=C(C=CC=C1N)O | C6H8N2O
reactant | pyruvic aldehyde | 3.79 ml | CC(=O)C=O | C3H4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 2M, 47 ml | C(C)(=O)O | C2H4O2
solvent | sodium acetate | 4M, 29 ml | C(C)(=O)[O-].[Na+]
product | 8-hydroxy-2-methylquinoxaline | OC=1C=CC=C2N=CC(=NC12)C | C9H8N2O
